US04246167
Methyl Phenyl Fulvene
To a two-liter 3-necked flask are charged isopropyl alcohol (1000 ml), methanol (300 ml) and sodium (10 g). Freshly distilled cyclopentadiene (180 g) and acetophenone (261 g) are mixed and slowly added, with stirring, to the solution in the flask. The reaction is run at room temperature. After 11/2 hours, the addition is complete. The reaction mixture is mixed with water and the organic layer extracted into hexane. The hexane extract is washed with water and stripped. The crude methyl phenyl-fulvene is distilled (80°-85° C./0.1 mm) and the distillate is a ruby-red liquid.

reactant | isopropyl alcohol | 1000 ml | C(C)(C)O | C3H8O
reactant | sodium | 10 g | [Na] | Na
reactant | cyclopentadiene | 180 g | C1=CC=CC1 | C5H6
reactant | acetophenone | 261 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
solvent | water | O | H2O
solvent | methanol | 300 ml | CO | CH4O
product | Methyl Phenyl Fulvene | CC1=C(C(C=C1)=C)C1=CC=CC=C1 | C13H12
